US08044206B2
After 3 ml of 10% hydrochloric acid was added to a solution of 818 mg of 4-[(E)-2-(2,6-dimethylphenyl)vinyl]-1-(1,3-dioxolane-2-ylmethyl)piperidin-2-one in 10 ml of tetrahydrofuran, the mixture was heated under reflux for 4.5 hours. After cooling, the reaction mixture was poured into saturated aqueous sodium hydrogen carbonate solution and extracted with ethyl acetate. The organic layer was washed with water and saturated aqueous sodium chloride. After drying over anhydrous sodium sulfate, the solvent was evaporated under reduced pressure to give 685 mg of {4-[(E)-2-(2,6-dimethylphenyl)vinyl]-2-oxopiperidin-1-yl}acetaldehyde.

reactant | hydrochloric acid | 3 ml | Cl | ClH
reactant | 4-[(E)-2-(2,6-dimethylphenyl)vinyl]-1-(1,3-dioxolane-2-ylmethyl)piperidin-2-one | 818 mg | CC1=C(C(=CC=C1)C)/C=C/C1CC(N(CC1)CC1OCCO1)=O | C19H25NO3
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | {4-[(E)-2-(2,6-dimethylphenyl)vinyl]-2-oxopiperidin-1-yl}acetaldehyde | 685 mg | CC1=C(C(=CC=C1)C)/C=C/C1CC(N(CC1)CC=O)=O | C17H21NO2
